US05158951
Preparation of N-propyl-6-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-acetic acid amide
A mixture containing 2.18 g (0.01 mol) of 6-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-acetic acid and 1.55 ml (0.011 mol) of triethylamine in 60 ml of chloroform is cooled below -10° C. by ice-salt. A solution of 0.945 g (0.01 mol) of methyl chloroformate in 5 ml of chloroform is dropped to the above mixture at -12° C. during 7 minutes. After stirring for 5 minutes, 0.65 g (0.011 mol) of propylamine dissolved in 10 ml of chloroform is dropped to the above solution at -15° C. during 10 minutes. The reaction mixture is stirred at -15° C. for 1 hour, then allowed to stand overnight under cooling by ice. For working up, the reaction mixture is washed 3 times with 40 ml of 5% sodium hydrogen carbonate solution each, then 3 times with 40 ml of water each. The organic phase is dried over anhydrous sodium sulfate, filtered and evaporated. After thoroughly triturating the residue with cold ethyl acetate, 0.8 g (30.9%) of the named compound is obtained, m.p.: 96°-98° C. after recrystallization from ethyl acetate.

reactant | 6-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-acetic acid | 0.01 mol, 2.18 g | CC1=CC=CC=2N1C(C(=CN2)CC(=O)O)=O | C11H10N2O3
reactant | triethylamine | 0.011 mol, 1.55 ml | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 0.01 mol, 0.945 g | ClC(=O)OC | C2H3ClO2
reactant | propylamine | 0.011 mol, 0.65 g | C(CC)N | C3H9N
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | N-propyl-6-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-acetic acid amide | 0.8 g, 30.9% | C(CC)NC(CC1=CN=C2N(C1=O)C(=CC=C2)C)=O | C14H17N3O2
